2180-01-13 06:49:00 Physician Resident Progress Note
Chief Complaint: anasarca
   24 Hour Events:
 MULTI LUMEN - START [**2180-1-12**] 05:34 PM
 MIDLINE - START [**2180-1-12**] 05:34 PM
   - poor UOP to 2.5 and 5mg/hr lasix drip.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.375 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2180-1-13**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 72 (70 - 108) bpm
   BP: 97/52(64) {77/44(52) - 113/76(84)} mmHg
   RR: 13 (11 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.2 kg (admission): 82.2 kg
             Total In:
                                                                    417 mL
                                                                    156 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                     47 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    410 mL
   Urine:
                                                                    200 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -133 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin, cachectic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: II/VI systolic murmur best at apex. PMI is laterally
   displaces
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriors)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, fluid
   wave
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Skin:  Not assessed, Stage 3 sacral decub
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   156 K/uL
   10.0 g/dL
   83 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.3 mEq/L
   46 mg/dL
   99 mEq/L
   137 mEq/L
   32.1 %
   6.1 K/uL
        [image002.jpg]
                             [**2180-1-13**]  05:44 AM
   WBC
   6.1
   Hct
   32.1
   Plt
   156
   Cr
   1.3
   Glucose
   83
   Other labs: PT / PTT / INR:15.7/36.8/1.4, Mg++:2.1 mg/dL
   Fluid analysis / Other labs: UA = [**5-25**] WBC + clumps. Mod Bacteria
   Assessment and Plan
   71 yo F w/ CAD, ischemic [**Month/Year (2) 5346**] (EF 10%) s/p [**Hospital1 **]-V ICD, atrial
   fibrillation, CKD, with past history of DVT and PE on Coumadin who was
   recently discharged from the CCU ([**11-5**]) for CHF exacerbation c/b
   C.diff infection and on [**12-3**] for septic joint washout c/b failure to
   extubate [**1-18**] CHF exacerbation, who is now being admitted from [**Hospital 827**]
   clinic with total body fluid overload.
   .
   # Anasarca: Patient has history of CHF [**1-18**] ischemic [**Last Name (LF) 5346**], [**First Name3 (LF) 300**] 10%, s/p
   BiV ICD ([**Company 2375**] Concerto C154DWK) 1/08with EF 10% which is the
   likely cause of her fluid overload. Her rapid accumulation underpins
   the severity of her condition and her severely unfavourable
   hemodynamics. Her long term goals are comfort, though she still wishes
   to participate in rehab. Her family recognizes that she is dying. Our
   goal is diuresis which we will attempt aggressively, reassessing our
   progress dynamically. She put out very little o/n on lasix gtt. This
   could reflect limitatin of diuresis or the importance of a bolus (we
   withheld bolus to avoid instability)
   -- milrinone with bolus
   -- neosynephrine for pressure support, goal MAP of > 60
   -- slow uptitration of lasix with goal near-continuous diuresis while
   avoiding MAP < 60
   -- strict i/o's with foley
   -- can switch to levophed if low UOP on Neo with need for pressor
   support
   -- family meeting with HCP to assess goals in AM after diuresis
   attempted
   .
   # Septic Joints: Patient with history +staph aureus in left shoulder
   treated by washout and vancomycin, thus far 4 weeks of monotherapy. No
   + blood cx since before [**2179-11-25**]. Major issue now is pain control.
   -- send Vanco level in AM, was recently on 500 mg q12 and switched to
   q24 for high troughs
   -- ultram q6, Tylenol q8, Morphine for breakthrough (1-3 mg).
   - Will consider ms contin if no control
   .
   # Sacral Decub - stage 3-4.
   - wound care
   - pain control.
   .
   # UTI: positive UA, no history of culture positive UA's in system
   - treating empirically with cipro
   - watch INR on abx
   .
   # CORONARIES: Patient with h/o CAD w/ right dominant system, mild
   instent re-stenois of the LAD BM stent and occluded RCA.
   - bb as tolerated
   .
   # RHYTHM: Patient with h/o atrial fibrillation, s/p BiV ICD ([**Company 2375**]
   Concerto C154DWK) [**12-24**], on coumadin. Now in paced rhythm
   - cont home dose meds  (amio, metoprolol)
   - cont coumadin
   - f/u INR
   .
   # Chronic Kidney Disease: Baseline 1.3 creatinine. At baseline
   - trend
   .
   # H/o DVT/PE: Patient has h/o DVT/PE currently on coumadin and has a
   [**Location (un) **] filter in place.
   - cont coumadin
   - f/u INR
   .
   # Hypothyroidism: Continue Levothyroxine.
   .
   # Gout: continue allopurionl
   .
   # FEN: low sodium diet
   .
   # ACCESS: Right PICC, right IJ, Left EJ
   .
   # PROPHYLAXIS: on coumadin
   .
   # CODE: DNR/DNI
   .
   # DISPO: CCU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-1-12**] 05:34 PM
   Midline - [**2180-1-12**] 05:34 PM
   18 Gauge - [**2180-1-12**] 05:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   DNR status discussed: DNR/DNI/defibrillator deactivated. DNR.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   although we have madee some minimal progress in diuresis, the outlook
   is poor
   after 20 min discussion with pt we have reaffirmed DNR/DNI status
   In addition, as per patient's wish we will deactivate the defibrillator
   shocking function of her ICD
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2180-1-13**]
   11:20 ------

2180-01-14 08:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - confirmed DNR, acemaker turned off
   - despite lasix gtt, diuresis poor yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-1-14**] 08:00 AM
   Ciprofloxacin - [**2180-1-14**] 08:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2180-1-13**] 04:00 PM
   Lansoprazole (Prevacid) - [**2180-1-13**] 04:00 PM
   Morphine Sulfate - [**2180-1-14**] 05:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-14**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 99 (66 - 104) bpm
   BP: 91/50(60) {82/42(45) - 101/67(120)} mmHg
   RR: 12 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 82.2 kg (admission): 82.2 kg
             Total In:
                                                                  1,554 mL
                                                                    456 mL
   PO:
                                                                    900 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    654 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                  1,628 mL
                                                                  1,505 mL
   Urine:
                                                                  1,628 mL
                                                                  1,505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -74 mL
                                                                 -1,049 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, thin, cachectic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: II/VI systolic murmur best at apex. MI is laterally
   displaced
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Stage 3 sacral decubitus ulcer
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3
   Labs / Radiology
   159 K/uL
   10.0 g/dL
   104 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   42 mg/dL
   98 mEq/L
   134 mEq/L
   31.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2180-1-13**]  05:44 AM
                             [**2180-1-14**]  04:46 AM
   WBC
   6.1
   4.7
   Hct
   32.1
   31.9
   Plt
   156
   159
   Cr
   1.3
   1.4
   Glucose
   83
   104
   Other labs: PT / PTT / INR:16.8/29.3/1.5, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   71 yo F w/ CAD, ischemic [**Year (4 digits) 5346**] (EF 10%) s/p [**Hospital1 **]-V ICD, atrial
   fibrillation, CKD, with past history of DVT and PE on Coumadin who was
   recently discharged from the CCU ([**11-5**]) for CHF exacerbation c/b
   C.diff infection and on [**12-3**] for septic joint washout c/b failure to
   extubate [**1-18**] CHF exacerbation, who is now being admitted from [**Hospital 827**]
   clinic with total body fluid overload.
   .
   # sCHF exacerbation: Patient has history of CHF [**1-18**] ischemic [**Last Name (LF) 5346**], [**First Name3 (LF) 300**]
   10%, s/p BiV ICD ([**Company 2375**] Concerto C154DWK) 1/08with EF 10% which is
   the likely cause of her fluid overload. Her rapid accumulation
   underpins the severity of her condition and her severely unfavourable
   hemodynamics. Her long term goals are comfort, though she still wishes
   to participate in rehab. Her family recognizes that she is dying. Our
   goal is diuresis which we will attempt aggressively, reassessing our
   progress dynamically. She put out very little o/n on lasix gtt. This
   could reflect limitatin of diuresis or the importance of a bolus (we
   withheld bolus to avoid instability)
   -- goal diuresis 5 to 10L total
   -- milrinone with bolus
   -- metoprolol tartrate 12.5mg PO BID
   -- slow uptitration of lasix gtt with goal near-continuous diuresis
   while avoiding MAP < 60
   -- strict i/o's with foley
   -- replete K to 5
   -- PM electrolytes
   -- can switch to levophed if low UOP on Neo with need for pressor
   support
   -- family meeting with HCP to assess goals in AM after diuresis
   attempted
   .
   # Septic Joints: Patient with history +staph aureus in left shoulder
   treated by washout and vancomycin, thus far 4 weeks of monotherapy. No
   + blood cx since before [**2179-11-25**]. Major issue now is pain control.
   -- send Vanco level in AM, was recently on 500 mg q12 and switched to
   q24 for high troughs
   -- ultram q6, Tylenol q8, Morphine for breakthrough (2-4 mg).
   - Will consider ms contin if no control
   .
   # Sacral Decub - stage 3-4.
   - wound care
   - pain control.
   .
   # UTI: positive UA, no history of culture positive UA's in system
   - treating empirically with cipro
   - watch INR on abx
   .
   # CORONARIES: Patient with h/o CAD w/ right dominant system, mild
   instent re-stenois of the LAD BM stent and occluded RCA.
   - bb as tolerated
   .
   # RHYTHM: Patient with h/o atrial fibrillation, s/p BiV ICD ([**Company 2375**]
   Concerto C154DWK) [**12-24**], on coumadin. Now in paced rhythm
   - cont home dose meds  (amio, metoprolol)
   - cont coumadin
   - f/u INR
   .
   # Chronic Kidney Disease: Baseline 1.3 creatinine. At baseline
   - trend
   .
   # H/o DVT/PE: Patient has h/o DVT/PE currently on coumadin and has a
   [**Location (un) **] filter in place.
   - continue Coumadin
   - f/u INR
   .
   # Hypothyroidism: Continue Levothyroxine
   .
   # Gout: continue Allopurinol
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:  None
   Lines:
   Multi Lumen - [**2180-1-12**] 05:34 PM
   Midline - [**2180-1-12**] 05:34 PM
   18 Gauge - [**2180-1-12**] 05:35 PM
   Prophylaxis:
   DVT: Coumadin
   Stress ulcer:  Lansoprazole
   VAP:
   Comments:
   Communication:  patient
   Code status: DNR/DNI
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy. Progress reviewed
   extensively during family meeting.
   DNR status discussed. DNR.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   diuresing well
   DNR/DNI/defibrillator off
   anticipate return to rehab in [**1-19**] days
   signed on [**2180-1-15**] for service performed on [**2180-1-14**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2180-1-15**]
   11:05 ------

2180-01-15 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-14**]:
   - diuresed ~2L over the day
   - PM lytes & Cr [**Doctor Last Name **] solid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-1-14**] 08:00 AM
   Ciprofloxacin - [**2180-1-14**] 08:00 AM
   Infusions:
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Coumadin (Warfarin) - [**2180-1-14**] 04:00 PM
   Lansoprazole (Prevacid) - [**2180-1-14**] 04:00 PM
   Morphine Sulfate - [**2180-1-15**] 03:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-15**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 65 (63 - 99) bpm
   BP: 94/54(65) {76/49(56) - 100/62(70)} mmHg
   RR: 13 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 82.2 kg (admission): 82.2 kg
             Total In:
                                                                  2,299 mL
                                                                    162 mL
   PO:
                                                                  1,340 mL
             TF:
   IVF:
                                                                    959 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  5,030 mL
                                                                  1,760 mL
   Urine:
                                                                  5,030 mL
                                                                  1,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,731 mL
                                                                 -1,598 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   10.7 g/dL
   115 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.7 mEq/L
   38 mg/dL
   94 mEq/L
   132 mEq/L
   33.1 %
   5.1 K/uL
        [image002.jpg]
                             [**2180-1-13**]  05:44 AM
                             [**2180-1-14**]  04:46 AM
                             [**2180-1-14**]  04:00 PM
                             [**2180-1-15**]  03:05 AM
   WBC
   6.1
   4.7
   5.1
   Hct
   32.1
   31.9
   33.1
   Plt
   156
   159
   146
   Cr
   1.3
   1.4
   1.3
   1.2
   Glucose
   83
   104
   155
   115
   Other labs: PT / PTT / INR:18.4/29.1/1.7, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   71 yo F w/ CAD, ischemic [**Year (4 digits) 5346**] (EF 10%) s/p [**Hospital1 **]-V ICD, atrial
   fibrillation, CKD, with past history of DVT and PE on Coumadin who was
   recently discharged from the CCU ([**11-5**]) for CHF exacerbation c/b
   C.diff infection and on [**12-3**] for septic joint washout c/b failure to
   extubate [**1-18**] CHF exacerbation, who is now being admitted from [**Hospital 827**]
   clinic with total body fluid overload.
   .
   # sCHF exacerbation: Patient has history of CHF [**1-18**] ischemic [**Last Name (LF) 5346**], [**First Name3 (LF) 300**]
   10%, s/p BiV ICD ([**Company 2375**] Concerto C154DWK) 1/08with EF 10% which is
   the likely cause of her fluid overload. Her rapid accumulation
   underpins the severity of her condition and her severely unfavourable
   hemodynamics. Her long term goals are comfort, though she still wishes
   to participate in rehab. Her family recognizes that she is dying. Our
   goal is diuresis which we will attempt aggressively, reassessing our
   progress dynamically. She put out very little o/n on lasix gtt. This
   could reflect limitatin of diuresis or the importance of a bolus (we
   withheld bolus to avoid instability)
   -- goal diuresis 5 to 10L total
   -- continue milrinone
   -- metoprolol tartrate 12.5mg PO BID
   -- slow uptitration of lasix gtt with goal near-continuous diuresis
   while avoiding MAP < 60
   -- strict i/o's with foley
   -- replete K to 5
   -- PM electrolytes
   -- can switch to levophed if low UOP on Neo with need for pressor
   support
   -- family meeting with HCP prn
   .
   # Septic Joints: Patient with history +staph aureus in left shoulder
   treated by washout and vancomycin, thus far 4 weeks of monotherapy. No
   + blood cx since before [**2179-11-25**]. Major issue now is pain control.
   -- send Vanco level in AM, was recently on 500 mg q12 and switched to
   q24 for high troughs
   -- ultram q6, Tylenol q8, Morphine for breakthrough (2-4 mg).
   - Will consider ms contin if no control
   .
   # Sacral Decub - stage 3-4.
   - wound care
   - pain control.
   .
   # UTI: positive UA, no history of culture positive UA's in system
   - treating empirically with cipro day 1 was [**1-13**]. Last dose Morning of
   [**1-17**]
   - watch INR on abx
   .
   # CORONARIES: Patient with h/o CAD w/ right dominant system, mild
   instent re-stenois of the LAD BM stent and occluded RCA.
   - bb as tolerated
   .
   # RHYTHM: Patient with h/o atrial fibrillation, s/p BiV ICD ([**Company 2375**]
   Concerto C154DWK) [**12-24**], on coumadin. Now in paced rhythm
   - cont home dose meds  (amio, metoprolol)
   - cont coumadin
   .
   # Chronic Kidney Disease: Baseline 1.3 creatinine. At baseline (1.2)
   - trend
   .
   # H/o DVT/PE: Patient has h/o DVT/PE currently on coumadin and has a
   [**Location (un) **] filter in place.
   - continue Coumadin
   .
   # Hypothyroidism: Continue Levothyroxine
   .
   # Gout: continue Allopurinol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-1-12**] 05:34 PM
   Midline - [**2180-1-12**] 05:34 PM
   18 Gauge - [**2180-1-12**] 05:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   DNR status discussed. DNR.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   diuresing very well; > 5 liters off net los
   anticipate 24-48 hours more volume unloading (until creat shows rise)
   plan to return to rehab
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2180-1-15**]
   11:06 ------

2180-01-16 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - MS Contin 15 [**Hospital1 **], was getting 22 mg IV morph qday
   - pulled EJ
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2180-1-14**] 08:00 AM
   Vancomycin - [**2180-1-15**] 09:36 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2180-1-16**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-16**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 70 (62 - 75) bpm
   BP: 88/57(63) {78/43(52) - 106/66(76)} mmHg
   RR: 23 (9 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Wgt (current): 77.3 kg (admission): 82.2 kg
             Total In:
                                                                  1,335 mL
                                                                    121 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    915 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  5,565 mL
                                                                    880 mL
   Urine:
                                                                  5,565 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,230 mL
                                                                   -759 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   10.7 g/dL
   115 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.8 mEq/L
   39 mg/dL
   92 mEq/L
   133 mEq/L
   33.1 %
   5.1 K/uL
        [image002.jpg]
                             [**2180-1-13**]  05:44 AM
                             [**2180-1-14**]  04:46 AM
                             [**2180-1-14**]  04:00 PM
                             [**2180-1-15**]  03:05 AM
                             [**2180-1-15**]  03:17 PM
   WBC
   6.1
   4.7
   5.1
   Hct
   32.1
   31.9
   33.1
   Plt
   156
   159
   146
   Cr
   1.3
   1.4
   1.3
   1.2
   1.1
   Glucose
   83
   104
   155
   115
   Other labs:
   PT / PTT / INR:18.4/29.1/1.7,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   71 yo F w/ CAD, ischemic [**Year (4 digits) 5346**] (EF 10%) s/p [**Hospital1 **]-V ICD, atrial
   fibrillation, CKD, with past history of DVT and PE on Coumadin who was
   recently discharged from the CCU ([**11-5**]) for CHF exacerbation c/b
   C.diff infection and on [**12-3**] for septic joint washout c/b failure to
   extubate [**1-18**] CHF exacerbation, who is now being admitted from [**Hospital 827**]
   clinic with total body fluid overload.
   .
   # sCHF exacerbation: Patient has history of CHF [**1-18**] ischemic [**Last Name (LF) 5346**], [**First Name3 (LF) 300**]
   10%, s/p BiV ICD ([**Company 2375**] Concerto C154DWK) 1/08with EF 10% which is
   the likely cause of her fluid overload. Her rapid accumulation
   underpins the severity of her condition and her severely unfavourable
   hemodynamics. Her long term goals are comfort, though she still wishes
   to participate in rehab. Her family recognizes that she is dying. Our
   goal is diuresis which we will attempt aggressively, reassessing our
   progress dynamically. She diuresed well on Lasix gtt on [**1-15**] with net
   neg 4L balance. LOS fluid balance -5L.
   -- goal diuresis 1L negative today with lasix gtt
   -- continue milrinone
   -- continue metolazone 5mg daily
   -- continue metoprolol tartrate 12.5mg PO BID
   -- strict i/o's with foley
   -- replete K to 5
   -- PM electrolytes
   -- family meeting with HCP prn
   .
   # Septic Joints: Patient with history +staph aureus in left shoulder
   treated by washout and vancomycin, thus far 4 weeks of monotherapy. No
   + blood cx since before [**2179-11-25**]. Major issue now is pain control.
   -- continue vanc, was recently on 500 mg q12 and switched to q24 for
   high troughs
   -- continue cipro
   -- increase MS contin to 30mg [**Hospital1 **]
   -- ultram q6, Tylenol q8, Morphine for breakthrough (2-4 mg).
   .
   # Sacral Decub - stage 3-4.
   - wound care
   - increase MS contin to 30mg [**Hospital1 **]
   - pain control
   .
   # UTI: positive UA, no history of culture positive UA's in system
   - treating empirically with cipro day 1 was [**1-13**]. Last dose tomorrow
   morning (Morning of [**1-17**]^st)
   - watch INR on abx
   .
   # CORONARIES: Patient with h/o CAD w/ right dominant system, mild
   instent re-stenois of the LAD BM stent and occluded RCA.
   - bb as tolerated
   .
   # RHYTHM: Patient with h/o atrial fibrillation, s/p BiV ICD ([**Company 2375**]
   Concerto C154DWK) [**12-24**], on coumadin. Now in paced rhythm
   - cont home dose meds  (amio, metoprolol)
   - cont coumadin
   .
   # Chronic Kidney Disease: Baseline Creatinine 1.3. Creatinine 1.1
   today.
   - trend
   .
   # H/o DVT/PE: Patient has h/o DVT/PE currently on coumadin and has a
   [**Location (un) **] filter in place.
   - continue Coumadin
   .
   # Hypothyroidism: Continue Levothyroxine
   .
   # Gout: continue Allopurinol
   ICU Care
   Nutrition:
   Low Na diet
   Glycemic Control:  not on insulin
   Lines:
   Multi Lumen - [**2180-1-12**] 05:34 PM
   Midline - [**2180-1-12**] 05:34 PM
   18 Gauge - [**2180-1-12**] 05:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   DNR status discussed. DNR.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   Approaching 10 liters net negative fluid balance, which was our goal.
   She is remarkably better in terms of appetite, breathing, and general
   comfort level.  Plan is for another 24 h milrinone plus Lasix gtt.
   Then shut off milrinone and switch to torsemide 40 mg po bid plus
   metolazone 2.5 mg qam.  Anticipate discharge to rehab on Tuesday
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2180-1-16**]
   11:28 ------

2180-01-17 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - MS contin increased to 30mg [**Hospital1 **] last night, received 2 doses w pills
   crushed, complained of nausea after each
   - complains of pain at 8/10
   - Has not had a BM for four days
   - PT ordered yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2180-1-14**] 08:00 AM
   Vancomycin - [**2180-1-15**] 09:36 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2180-1-16**] 12:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-17**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 68 (63 - 75) bpm
   BP: 91/52(62) {75/44(51) - 98/61(70)} mmHg
   RR: 9 (9 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 77.3 kg (admission): 82.2 kg
             Total In:
                                                                  1,004 mL
                                                                    146 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                    564 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  2,410 mL
                                                                    420 mL
   Urine:
                                                                  2,410 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,406 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   Gen: alert, oriented x3 but appears to have psychomotor retardation and
   easily confused
   HEENT:  slightly dry mucus membranes
   CHEST:  regular rhythm ; dry basilar crackles
   ABD: mildly distended, soft, nontender
   EXT: [**2-17**]+ pitting edema bilaterally
   Labs / Radiology
   106 K/uL
   10.0 g/dL
   86 mg/dL
   1.0 mg/dL
   34 mEq/L
   3.7 mEq/L
   33 mg/dL
   92 mEq/L
   134 mEq/L
   30.9 %
   4.2 K/uL
        [image002.jpg]
                             [**2180-1-13**]  05:44 AM
                             [**2180-1-14**]  04:46 AM
                             [**2180-1-14**]  04:00 PM
                             [**2180-1-15**]  03:05 AM
                             [**2180-1-15**]  03:17 PM
                             [**2180-1-16**]  03:05 AM
                             [**2180-1-16**]  05:03 PM
                             [**2180-1-17**]  05:22 AM
   WBC
   6.1
   4.7
   5.1
   4.4
   4.2
   Hct
   32.1
   31.9
   33.1
   32.2
   30.9
   Plt
   156
   159
   146
   134
   106
   Cr
   1.3
   1.4
   1.3
   1.2
   1.1
   1.0
   1.0
   1.0
   Glucose
   83
   104
   155
   115
   98
   107
   86
   Other labs: PT / PTT / INR:20.2/33.1/1.9, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   71 yo F w/ CAD, ischemic [**Year (4 digits) 5346**] (EF 10%) s/p [**Hospital1 **]-V ICD, atrial
   fibrillation, CKD, with past history of DVT and PE on Coumadin who was
   recently discharged from the CCU ([**11-5**]) for CHF exacerbation c/b
   C.diff infection and on [**12-3**] for septic joint washout c/b failure to
   extubate [**1-18**] CHF exacerbation, who was admitted from [**Hospital 827**] clinic with
   total body fluid overload.
   .
   # sCHF exacerbation:
   Patient has history of CHF [**1-18**] ischemic [**Last Name (LF) 5346**], [**First Name3 (LF) 300**] 10%, s/p BiV ICD
   ([**Company 2375**] Concerto C154DWK) [**12-24**] with EF 10% which was the likely
   cause of her fluid overload.  Appears intravascularly euvolemic on
   exam, no need to continue lasix gtt.  Has diuresed well -9L on length
   of stay.  Diuresed -1.5L over last day.
   -          DC lasix gtt
   -          DC milrinone
   -          Start torsemide 40mg [**Hospital1 **], on which she will be discharged
   -          Metolazone 5mg once today, then switch to metolazone 2.5mg
   daily w first dose of torsemide tomorrow
   -          Continue strict I/Os
   -          Continue to replete K
   .
   # Goals of Care:
   End-stage CHF with long term goals are comfort, though she still wishes
   to participate in rehab. Her family recognizes that she is dying.
   - Consult Pain and Palliative Care
   .
   # Septic Joints: Patient with history +staph aureus in left shoulder
   treated by washout and vancomycin, thus far 4 weeks of monotherapy. No
   + blood cx since before [**2179-11-25**]. Major issue now is pain control.
   -- continue vanc 500 mg q24 ; will need to monitor vanc troughs on
   discharge
   -- MS contin increased to 30mg [**Hospital1 **] yesterday
   -- standing ultram q6, Tylenol q8
   .
   # Sacral Decub - stage 3-4.
   Pain control very important
   - switch to oral breakthrough Morphine , but leave IV as backup
   - wound care
   - standing ultram Q6h, Tylenol Q8h
   - continue MS contin to 30mg [**Hospital1 **] (with smaller 15mg pills x2 so she can
   swallow)
   - Consulting Pain and Palliative Care
   .
   # UTI: positive UA, no history of culture positive UA's in system.
   Will do 10day course because of chronic foley.
   - treating empirically with cipro ;  day 1 of 10 day course was [**1-13**]
   - watch INR on abx
   .
   # Hx CAD:
   Patient with h/o CAD w/ right dominant system, mild instent re-stenois
   of the LAD BM stent and occluded RCA.
   - continue metoprolol 25mg [**Hospital1 **]
   .
   # Hx Afib:
   Patient with h/o atrial fibrillation, s/p BiV ICD ([**Company 2375**] Concerto
   C154DWK) [**12-24**], on coumadin. Now in paced rhythm
   - cont home dose meds  (amio, metoprolol)
   - cont coumadin
   - trend INR
   .
   # H/o DVT/PE: Patient has h/o DVT/PE currently on coumadin and has a
   [**Location (un) **] filter in place.  INR mildly subtherapeutic despite Cipro
   - continue Coumadin  and monitor INR
   .
   # Hypothyroidism: Continue Levothyroxine
   .
   # Gout: continue Allopurinol
   ICU Care
   Nutrition: tolerating po well
   Glycemic Control:
   Lines:  midline,  right IJ (will consider taking out RIJ tomorrow
   [**2180-1-18**] if does not need milrinone again)
   Multi Lumen - [**2180-1-12**] 05:34 PM
   Midline - [**2180-1-12**] 05:34 PM
   Prophylaxis:
   DVT:   coumadin
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy.
   DNR status discussed. DNR.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   signed on [**2180-1-18**] for service provided on [**2180-1-17**]
   plan to shut off milrinone and furosemide drips and switch to po
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2180-1-18**]
   09:59 ------

2180-01-19 06:55:00 Physician Resident Progress Note
Chief Complaint: Congestive heart failure
   24 Hour Events:
   - DCed milrinone and diuretics 11:30am
   - Family mtg held with patient's 3 sisters and multiple other family
   members, Dr. [**First Name (STitle) **], then (P&PC) Dr. [**First Name4 (NamePattern1) 3373**] [**Last Name (NamePattern1) **] --> everybody in
   agreement w plan to DC milrinone, to give small 250cc boluses as needed
   if BP drops and morphine for symptoms if lungs become overloaded w
   fluid ; Hold on Rehab for now
   - Likely transfer pt to floor tomorrow w PPC following
   - BPs still stable 88-96 SBP (maps>60) at 1am, though family had been
   concerned occasionally that she looked like she had more difficulty
   breathing or increased apneic episodes, though nursing does not feel
   that she has had any difficulty breathing (pt has not needed any 250cc
   boluses at this point)
   - 0430am systolic BPs low 70s, but mentating well, not symptomatic -->
   1 bag 250ccs NS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-1-17**] 08:00 AM
   Ciprofloxacin - [**2180-1-17**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2180-1-19**] 06:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-19**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 71 (68 - 101) bpm
   BP: 79/58(62) {73/42(51) - 107/73(77)} mmHg
   RR: 11 (9 - 23) insp/min
   SpO2: 92%
   Heart rhythm: V Paced
   Wgt (current): 73.6 kg (admission): 82.2 kg
   Height: 60 Inch
             Total In:
                                                                    743 mL
                                                                    370 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    143 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    200 mL
   Urine:
                                                                  1,190 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -447 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   Gen: alert, oriented x3, pleasant, cachectic chronically ill appearing
   woman.  In no acute distress.
   HEENT:  dry mucus membranes
   NECK: JVP unable to be assessed secondary to line
   CHEST:  clear to auscultation bilaterally
   ABD: mildly distended, soft, nontender
   EXT: [**1-19**]+ pitting edema lower extremity edema bilaterally
   Labs / Radiology
   116 K/uL
   10.2 g/dL
   93 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.8 mEq/L
   32 mg/dL
   91 mEq/L
   132 mEq/L
   31.2 %
   4.6 K/uL
        [image002.jpg]
                             [**2180-1-13**]  05:44 AM
                             [**2180-1-14**]  04:46 AM
                             [**2180-1-14**]  04:00 PM
                             [**2180-1-15**]  03:05 AM
                             [**2180-1-15**]  03:17 PM
                             [**2180-1-16**]  03:05 AM
                             [**2180-1-16**]  05:03 PM
                             [**2180-1-17**]  05:22 AM
                             [**2180-1-17**]  05:25 PM
                             [**2180-1-18**]  05:40 AM
   WBC
   6.1
   4.7
   5.1
   4.4
   4.2
   4.6
   Hct
   32.1
   31.9
   33.1
   32.2
   30.9
   31.2
   Plt
   156
   159
   146
   134
   106
   116
   Cr
   1.3
   1.4
   1.3
   1.2
   1.1
   1.0
   1.0
   1.0
   1.1
   1.0
   Glucose
   83
   104
   155
   115
   98
   107
   86
   93
   Other labs: PT / PTT / INR:19.1/29.7/1.7, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
    71 yo F w/ CAD, ischemic [**Year (4 digits) 5346**] (EF 10%) s/p [**Hospital1 **]-V ICD, atrial
   fibrillation, CKD, with past history of DVT and PE on Coumadin who was
   recently discharged from the CCU ([**11-5**]) for CHF exacerbation c/b
   C.diff infection and on [**12-3**] for septic joint washout c/b failure to
   extubate [**1-18**] CHF exacerbation, who was admitted from [**Hospital 827**] clinic with
   total body fluid overload.
   .
   # sCHF Exacerbation:
   Patient has history of CHF [**1-18**] ischemic [**Last Name (LF) 5346**], [**First Name3 (LF) 300**] 10%, s/p BiV ICD
   ([**Company 2375**] Concerto C154DWK) [**12-24**] with EF 10% which was the likely
   cause of her fluid overload.  Appears euvolemic currently.  Has
   diuresed well -9L on length of stay.  Responding well to torsemide with
   metolazone while on milrinone, but urine output had dropped without
   milrinone on [**2180-1-17**].  Diuresed net -500cc over last day.  Breathing
   comfortably currently.
   - blood pressure maintained without milrinone, will continue to support
   with IV fluids as needed
   - will start on 20mg torsemide daily for maintenance of volume status.
   .
   # Goals of Care:
   End-stage CHF with long term goals are comfort, though she still wishes
   to participate in rehab. Her family recognizes that she is dying.  Pain
   and Palliative Care consulted on [**2180-1-17**] for pain control and goals of
   care.
   - appreciate palliative care recommendations
   - call-out to floor on [**2180-1-19**] for continued comfort measures.  Current
   status remains to continue interventions for acute treatable problems,
   but not to re-escalate treatment for CHF with milrinone.
   - will consider disconnecting IJ for comfort
   .
   # Septic Joints: Patient with history +staph aureus in left shoulder
   treated by washout and vancomycin, thus far 4 weeks of monotherapy. No
   + blood cx since before [**2179-11-25**]. Major issue now is pain control.
   - continue vancomycin until [**2180-1-21**], then suppression with doxycycline
   - appreciate ID recommendations.
   -- continue MS contin 30mg [**Hospital1 **] and reassess pain med needs
   -- standing ultram q6, Tylenol q8
   .
   # Sacral Decub - stage 3-4.  Focusing on Pain control.  Pain and
   Palliative Care following with patient. Switched to oral breakthrough
   Morphine with IV as backup.  Patient required IV morphine this morning
   while moving.
   - wound care
   - standing ultram Q6h, Tylenol Q8h
   - reassess patient
s pain requirements
   - continue with oral morphine, will use IV as needed now that patient
   primary goal is comfort.
   .
   # UTI: positive UA, no history of culture positive UA's in system.
   Will do 10day course because of chronic foley.
   - treating empirically with cipro ;  day 1 of 10 day course was [**1-13**]
   - watch INR on abx
   .
   # Hx CAD:
   Patient with h/o CAD w/ right dominant system, mild instent re-stenois
   of the LAD BM stent and occluded RCA.
   - continue metoprolol 25mg [**Hospital1 **]
   .
   # Hx Afib:
   Patient with h/o atrial fibrillation, s/p BiV ICD ([**Company 2375**] Concerto
   C154DWK) [**12-24**], on coumadin. Now in paced rhythm
   - cont home dose meds  (amio, metoprolol)
   - cont coumadin, at current dose.
   - trend INR
   .
   # H/o DVT/PE: Patient has h/o DVT/PE currently on coumadin and has a
   [**Location (un) **] filter in place.  INR mildly subtherapeutic despite Cipro
   -          continue Coumadin
   -          monitor INR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-1-12**] 05:34 PM
   Midline - [**2180-1-12**] 05:34 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: